US06667322B2
To a solution of 3,4-dihydro-2H-chromen-2-ylmethyl 4-methylbenzenesulfonate (0.500 g, 1.57 mmol) was added 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.590 g, 2.73 mmol) and triethylamine (0.314 g, 3.10 mmol) and the reaction mixture was heated to 80° C. for 8 h. The reaction mixture was allowed to cool to room temperature and was diluted with ethyl acetate (200 mL), washed with water (3×100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, methanol:dichloromethane 1:9) provided 0.234 g (40%) of 3-[1-(3,4-dihydro-2H-chromen-2-ylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-5-fluoro-1H-indole as a yellow solid. mp 172-175° C.; Anal. Calcd. for C23H23FN2O: C, 76.22; H, 6.40; N, 7.73. Found: C, 75.82; H, 6.37; N, 7.63.

reactant | 3,4-dihydro-2H-chromen-2-ylmethyl 4-methylbenzenesulfonate | 1.57 mmol, 0.500 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=CC=CC=C2CC1 | C17H18O4S
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 2.73 mmol, 0.590 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
reactant | triethylamine | 3.10 mmol, 0.314 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-[1-(3,4-dihydro-2H-chromen-2-ylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-5-fluoro-1H-indole | 0.234 g, 40% | O1C(CCC2=CC=CC=C12)CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)F | C23H23FN2O
